US20010025109A1
72 g (0.60 mol) of L-homoserine are added in portions to a solution of 500 ml of acetic acid and 500 ml of acetyl chloride while cooling at <30° C. After 2 hours' stirring, no homoserine can be detected by TLC. The precipitate is filtered off with suction and washed with acetic acid. Drying in vacuo yields 90.1 g (75%) of O-acetyl-L-homoserine hydrochloride.

reactant | L-homoserine | 0.60 mol, 72 g | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | acetyl chloride | 500 ml | C(C)(=O)Cl | C2H3ClO
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | O-acetyl-L-homoserine hydrochloride | 90.1 g, 75% | Cl.C(C)(=O)OCC[C@H](N)C(=O)O | InChI=1S/C6H11NO4.ClH/c1-4(8)11-3-2-5(7)6(9)10;/h5H,2-3,7H2,1H3,(H,9,10);1H/t5-;/m0./s1
